US03946009
The 2-hydroxy-3-p-methoxyphenylpyrazine is refluxed (120°-130°C) with excess phosphorus oxychloride under stirring for 3-5 hours. The solution is evaporated to dryness at 50°C in vacuo, cooled, ice is added, then treated with 10% sodium hydroxide solution, extracted with a suitable solvent such as diethyl ether, the ethereal solution washed with water and evaporated. The crude product is crystallized from a suitable solvent such as ethanol to give 2-chloro-3-p-methoxyphenylpyrazine.

reactant | 2-hydroxy-3-p-methoxyphenylpyrazine | OC1=NC=CN=C1C1=CC=C(C=C1)OC | C11H10N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3-p-methoxyphenylpyrazine | ClC1=NC=CN=C1C1=CC=C(C=C1)OC | C11H9ClN2O
